US05091432
Synthesis of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, ethyl ester (AIT-0079)
165 mg (0.50 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 84 mg (0.50 mmol) of 4-aminobenzoic acid ethyl ester were heated together in 1.5 ml of dimethylsulfoxide at 35°-40° C. for 72 hours. A white precipitate was observed at the bottom of the flask. 10 ml acetone was added and the solid was collected by Buchner vacuum filtration. The solid was washed twice with acetone and was allowed to dry. This yielded 53 mg of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, ethyl ester (AIT-0079) as a white solid. m.p. 265°-269° C. Yield: 30%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.50 mmol, 165 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | 4-aminobenzoic acid ethyl ester | 0.50 mmol, 84 mg | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]benzoic acid, ethyl ester | Yield: 30% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C17H17N5O4
